US05420151
(R)-8-Fluoro-3-(N-3-pentyl-N-n-propylamino)-5-trifluoromethanesulfonyloxychroman (1.04 g, 2.43 mmol), palladium(II)acetate (55 mg), 1,2-bis(diphenylphosphino)propane (100 mg) was dissolved in 10 ml DMF. Triethylamine (0.75 ml, 5.38 mmol) and MeOH (1.0 ml, 24.6 mmol) was added under CO atm. via septa. The solution was stirred at +70° C. for 18 hours, and thereafter evaporated to dryness. 100 ml 2M NH3 and 100 ml EtOAc was added and the aqueous phase was extracted with 100 ml EtOAc. The combined organic layers was dried (MgSO4) and evaporated. Flash chromatography on silica with a gradient of Hexane-Hexane:EtOAc, 50:1 gave 0.76 g of (R)-8-fluoro-5-methyloxycarbonyl-3-(N-3-pentyl-N-n-propylamino)chroman as an uncoloured oil. Purity: 94% according to GC.

reactant | (R)-8-Fluoro-3-(N-3-pentyl-N-n-propylamino)-5-trifluoromethanesulfonyloxychroman | 2.43 mmol, 1.04 g | FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)OS(=O)(=O)C(F)(F)F | C18H25F4NO4S
reactant | 1,2-bis(diphenylphosphino)propane | 100 mg | C1(=CC=CC=C1)P(CC(C)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | Triethylamine | 5.38 mmol, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | MeOH | 24.6 mmol, 1.0 ml | CO | CH4O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II)acetate | 55 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (R)-8-fluoro-5-methyloxycarbonyl-3-(N-3-pentyl-N-n-propylamino)chroman | 0.76 g | FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)C(=O)OC | C19H28FNO3
